US05688795
A solution of 3-[4-(2-methoxyphenyl)piperazin-1-yl]-1-propanol (24 g, 95.87 mmol), prepared as in Example 10, in 25 mL of triethylamine and 300 mL of methylene chloride was cooled to approximately 0° C. and then methanesulfonyl chloride (8.8 mL) was added dropwise. The mixture was stirred at approximately 0° C. for 1 hour and then at room temperature for 0.5 hours. The mixture was poured into saturated sodium carbonate and stirred for 15 minutes. The organic phase was separated, washed with saturated sodium carbonate (2×150 mL), dried (MgSO4) and concentrated to give 3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl methanesulfonate (21 g, 63.63 mmol).

reactant | 3-[4-(2-methoxyphenyl)piperazin-1-yl]-1-propanol | 95.87 mmol, 24 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCO | C14H22N2O2
reactant | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
reactant | methanesulfonyl chloride | 8.8 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | triethylamine | 25 mL | C(C)N(CC)CC | C6H15N
product | 3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl methanesulfonate | 63.63 mmol, 21 g | CS(=O)(=O)OCCCN1CCN(CC1)C1=C(C=CC=C1)OC | C15H24N2O4S
